US08242104B2
Step 1: 4-{2-[2-(2,4-Difluoro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulen-9-yl}-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester
To a solution of dicyclohexylamine (291 μL, 1.463 mmol) in anhydrous toluene (3 mL) was added 2.5M n-butyllithium in hexanes (563 μL, 1.575 mmol) dropwise at RT under nitrogen. After complete addition the mixture was stirred at RT for 10 min then ethyl N-Boc-piperidine-4-carboxylate (305 μL, 1.24 mmol) was added drop wise at RT and the mixture was stirred for 30 min. The mixture was added to 9-bromo-2-[2-(2,4-difluoro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene (500 mg, 1.13 mmol), di(dibenzylideneacetone)-palladium (35 mg, 0.06 mmol), tri-tert-butylphosphonium tetrafluoroborate (17.4 mg, 0.06 mmol) at RT under nitrogen then heated to 100° C. After heating for 17 hr the mixture was allowed to cool to RT and subjected to flash chromatography (SiO2, gradient 0 to 50% ethyl acetate in cyclohexane) to afford the title compound (200 mg, 29%). LCMS RT=4.93 min, M+H+=621.

reactant | dicyclohexylamine | 1.463 mmol, 291 μL | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | ethyl N-Boc-piperidine-4-carboxylate | 1.24 mmol, 305 μL | C(=O)(OC(C)(C)C)N1CCC(CC1)C(=O)OCC | C13H23NO4
reactant | 9-bromo-2-[2-(2,4-difluoro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene | 1.13 mmol, 500 mg | BrC=1C=CC2=C(C3=NN(C=C3CCO2)C=2N(N=CN2)C2=C(C=C(C=C2)F)F)C1 | C19H12BrF2N5O
reactant | tri-tert-butylphosphonium tetrafluoroborate | 0.06 mmol, 17.4 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{2-[2-(2,4-Difluoro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulen-9-yl}-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 200 mg, 29% | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C=1C=CC2=C(C3=NN(C=C3CCO2)C=2N(N=CN2)C2=C(C=C(C=C2)F)F)C1 | C32H34F2N6O5
